US06110929
Ethoxyacetyl chloride (6 mL, 53.8 mmol) was added to a suspension of 3-aminoquinoline-4-thiol (4.6 g, 26.1 mmol) in ethoxyacetic acid (50 mL). The reaction mixture was heated at 60° C. overnight. The reaction mixture was concentrated under vacuum to remove a portion of the ethoxyacetic acid. The residue was combined with water (100 mL) and a precipitate formed. The mixture was made basic with 50% sodium hydroxide. The precipitate was isolated by filtration, washed with water and then dried to provide 2-(ethoxymethyl)thiazolo[4,5-c]quinoline as a fluffy green solid.

reactant | Ethoxyacetyl chloride | 53.8 mmol, 6 mL | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 3-aminoquinoline-4-thiol | 26.1 mmol, 4.6 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethoxyacetic acid | 50 mL | C(C)OCC(=O)O | C4H8O3
product | 2-(ethoxymethyl)thiazolo[4,5-c]quinoline | C(C)OCC=1SC2=C(C=NC=3C=CC=CC23)N1 | C13H12N2OS
